US08624034B2
Step A) Compound III: 5-Fluoro-4-iodopyridin-2(1H)-one
Concentrated HCl (50 mL) was added to a mixture of 2,5-difluoro-4-iodopyridine (2.0 g, 8.3 mmol) in 1,4-dioxane (350 mL) and water (100 mL). The mixture was heated to reflux and stirred at this temperature overnight. The reaction was concentrated to dryness and the residue was triturated in water (20 mL). The solids were collected via filtration and washed with water (2×30 mL) and hexanes (3×30 mL). The solid was dried under vacuum to afford the title compound as a yellow solid (1.0 g, 50%). MS (LCMS) m/z 240.0 (M+1). 1H NMR (400 MHz, DMSO-d6) δ ppm 7.02 (d, J=5.07 Hz, 1H) 7.68 (d, J=2.34 Hz, 1H) 11.50 (br. s., 1H).

reactant | HCl | 50 mL | Cl | ClH
reactant | 2,5-difluoro-4-iodopyridine | 8.3 mmol, 2.0 g | FC1=NC=C(C(=C1)I)F | C5H2F2IN
reactant | 1,4-dioxane | 350 mL | O1CCOCC1 | C4H8O2
solvent | water | 100 mL | O | H2O
product | 5-Fluoro-4-iodopyridin-2(1H)-one | 1.0 g, 50% | FC=1C(=CC(NC1)=O)I | C5H3FINO
